US07714161B2
To a solution of 3,5-dihydroxybenzoic acid (7.71 g, 50 mmol) in EtOAc (10 mL) were added acetic anhydride (12.25 mL, 130 mmol) and pyridine (8.08 mL, 100 mmol) in an ice-water bath under a nitrogen atmosphere. The mixture was stirred at 0° C. for 40 min and then stirred at ambient temperature for 4 h. 98% Formic acid (2.36 mL, 60 mmol) was added and the resulting mixture was stirred for 1 h. Then, it was poured into water and extracted with EtOAc. The organic phase was washed with water and brine, dried over Na2SO4, filtered, and evaporated in vacuo. Purification of the residue via recrystallization from n-heptane/EtOAc provided 3,5-diacetoxybenzoic acid (8.97 g, 75.3%) as white solid. Data are: 1H NMR (CDCl3, 300 MHz) δ 12.1 (bs, 1H), 7.73 (d, 2H), 7.21 (t, 1H), 2.32 (s, 6H); 13C NMR (CDCl3, 75 MHz) δ 170.4, 169.0, 151.2, 131.5, 121.3, 121.0, 21.2; mp=161-162° C.; HRMS (EI+) found 238.0475 M+, calcd 238.0477 for C11H10O6; Anal. Calcd for C11H10O6: C, 55.47; H, 4.23. Found: C, 55.62; H, 4.37.

reactant | 3,5-dihydroxybenzoic acid | 50 mmol, 7.71 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | acetic anhydride | 130 mmol, 12.25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 100 mmol, 8.08 mL | N1=CC=CC=C1 | C5H5N
reactant | Formic acid | 60 mmol, 2.36 mL | C(=O)O | CH2O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3,5-diacetoxybenzoic acid | 8.97 g, 75.3% | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1)OC(C)=O | C11H10O6
